US05272172
28.0 g of (1S, 4aS, 7S, 7aR)-1-[1-(ethoxy)ethoxy]-1, 4a, 5, 6, 7, 7a-hexahydro-4, 7-dimethylcyclopenta[c]pyran was dissolved in 500 ml of ethyl acetate, and after 90 mg of 10% palladium carbon was added, the reaction mixture was stirred at room temperature for 48 hours in a hydrogen gas atmosphere of 1 atm. The catalyst was filtered by celite, and the solvent was distilled off under a reduced pressure. There was thus obtained a colorless oily substance, (1S, 4R, 4aS, 7S, 7aR)-1-[1-(ethoxy)ethoxy]-1, 3, 4, 4a, 5, 6, 7, 7a-octahydro-4, 7-dimethylcyclopenta[c]pyran. 28.0 g of this (1S, 4R, 4aS, 7S, 7aR)-1-[1-(ethoxy)ethoxy]-1, 3, 4, 4a, 5, 6, 7, 7a-octahydro-4, 7-dimethylcyclopenta[c]pyran was dissolved in 400 ml of tetrahydrofuran without purification, and after 50 ml of 2N hydrochloric acid solution wad added, the reaction mixture was stirred for 12 hours while being cooled by ice. 300 ml of saturated sodium hydrogen carbonate solution was added to the reaction mixture, extraction was made with ethyl acetate (500 ml×3). The joined organic layer was dried by magnesium sulfate, and after filtration, the solvent was distilled off under a reduced pressure. The residue was purified by column chromatography using 200 g of silica gel, and 13.5 g of a colorless oily substance (yield=69.4%) was obtained from the hexane:ether=1:1 eluent. Since various spectral data of this colorless oily substance were in agreement with the data described in the reference ("Tetrahedron Lett.", 5325, 1968), it was determined as 4R, 4aR, 7S, 7aR)-1, 3, 4, 4a, 5, 6, 7, 7a-octahydro-4, 7-dimethylcyclopenta[c]pyran-1-ol.

reactant | (1S, 4aS, 7S, 7aR)-1-[1-(ethoxy)ethoxy]-1, 4a, 5, 6, 7, 7a-hexahydro-4, 7-dimethylcyclopenta[c]pyran | 28.0 g | C(C)OC(C)O[C@@H]1OC=C([C@@H]2[C@H]1[C@H](CC2)C)C | C14H24O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 90 mg | [C].[Pd]
product | (1S, 4R, 4aS, 7S, 7aR)-1-[1-(ethoxy)ethoxy]-1, 3, 4, 4a, 5, 6, 7, 7a-octahydro-4, 7-dimethylcyclopenta[c]pyran | yield=69.4% | C(C)OC(C)O[C@@H]1OC[C@@H]([C@H]2[C@H]1[C@H](CC2)C)C | C14H26O3
